US09216911B2
Using the same procedure described in examples 4 and 9 above, N-(2-methylcyclohexyl)pyrrolidine was quaternized with ethyl iodide to give N-ethyl-N-(2-methylcyclohexyl)pyrrolidinium iodide which ion-exchanged with hydroxide ion using the aforementioned exchange procedures to give the hydroxide solution of the N-ethyl-N-(2-methylcyclohexyl)pyrrolidinium in a combined yield 86% for both the quaternization and the exchange.

reactant | N-(2-methylcyclohexyl)pyrrolidine | CC1C(CCCC1)N1CCCC1 | C11H21N
reactant | ethyl iodide | C(C)I | C2H5I
product | N-ethyl-N-(2-methylcyclohexyl)pyrrolidinium iodide | [I-].C(C)[N+]1(CCCC1)C1C(CCCC1)C | InChI=1S/C13H26N.HI/c1-3-14(10-6-7-11-14)13-9-5-4-8-12(13)2;/h12-13H,3-11H2,1-2H3;1H/q+1;/p-1
